US09085517B2
4-[(3,4-dichlorophenoxy)methyl]-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide
To a solution of 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide (Preparation 1, 40 mg, 0.11 mmol) in dimethylsulfoxide (0.5 mL) was added 3,4-dichlorophenol (18 mg, 0.11 mmol) followed by addition of potassium carbonate (31 mg, 0.22 mmol). The reaction was left to stir at room temperature for 18 hours. The reaction mixture was poured into water (50 mL) and acidified with 2M HCl (2 mL), then extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (20 mL), then dried over magnesium sulfate and evaporated in vacuo to give a colourless glass (44 mg). The solid was then triturated with 1:1 ether:heptane (4 mL), sonicated and the supernatant decanted. The resulting solid was dried in vacuo to give an off-white solid as the title compound (47 mg, 98%).

reactant | 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 0.11 mmol, 40 mg | BrCC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C10H11BrF2N2O3S
reactant | 3,4-dichlorophenol | 0.11 mmol, 18 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium carbonate | 0.22 mmol, 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2M, 2 mL | Cl | ClH
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 4-[(3,4-dichlorophenoxy)methyl]-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 44 mg | ClC=1C=C(OCC2=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C2F)F)C=CC1Cl | C16H14Cl2F2N2O4S
